* Basic SPICE placeholders for the imported 3D_TFT hard macros.
* Include pdk/tft3d_platform/libs.tech/ngspice/tft3d_platform_primitives.spice
* or pdk/tft3d_platform/libs.tech/ngspice/tft3d_platform.spice before this file.
* These models are for flow bring-up and functional checks only.

.subckt nfet_W20p825_L5 D G S VSS
M0 D G S VSS nch W=20.825u L=5u M=1
.ends nfet_W20p825_L5

.subckt nfet_W24u_L5 D G S VSS
M0 D G S VSS nch W=24u L=5u M=1
.ends nfet_W24u_L5

.subckt nfet_W6u_L5 D G S VSS
M0 D G S VSS nch W=6u L=5u M=1
.ends nfet_W6u_L5

.subckt INV_X4PC_T5_nmos A Y VDD VSS
RPU VDD Y 24k
M0 Y A VSS VSS nch W=24u L=5u M=4
COUT Y VSS 10f
.ends INV_X4PC_T5_nmos

.subckt wl_inv A Y VDD VSS
XINV A Y VDD VSS INV_X4PC_T5_nmos
.ends wl_inv

.subckt wl_prebuffer A Y VDD VSS
XINV0 A mid VDD VSS INV_X4PC_T5_nmos
XINV1 mid Y VDD VSS INV_X4PC_T5_nmos
.ends wl_prebuffer

.subckt wl_sel A SEL Y VDD VSS
RPU VDD Y 24k
MSEL Y SEL mid VSS nch W=6u L=5u M=1
MDAT mid A VSS VSS nch W=6u L=5u M=1
COUT Y VSS 10f
.ends wl_sel

* Physical-only SRAM array flavour placeholders extracted from
* Stack_SRAM_260605_F.gds. The source GDS has WL-number geometry on layer 40,
* but no named electrical pin labels.
.subckt stack_sram_array_f0
.ends stack_sram_array_f0

.subckt stack_sram_array_f1
.ends stack_sram_array_f1

.subckt stack_sram_array_f2
.ends stack_sram_array_f2

.subckt stack_sram_array_f3
.ends stack_sram_array_f3

.subckt stack_sram_array_f4
.ends stack_sram_array_f4

.subckt stack_sram_array_f5
.ends stack_sram_array_f5
